US07700634B2
2-Chloro-1-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]ethanone (0.73 g, 2.30 mmol) and 2-(tert-butylcarbonyloxy)thioacetamide (1.21 g, 6.89 mmol) were suspended in ethanol (10 ml) and the resulting mixture subjected to microwave irradiation at 150° C. for 10 min using an Emrys™ Optimizer EXP. The reaction mixture was concentrated in vacuo and the residue obtained was purified by flash column chromatography eluting with 5% (v/v) ethyl acetate in n-heptane to afford 1-(cyclohexyl)methyl-7-methoxy-3-{2-[(tertbutylcarbonyloxy)methyl]thiazol-4-yl}-1H-indole as a yellow oil (1.01 g).

reactant | 2-Chloro-1-[1-(cyclohexyl)methyl-7-methoxy-1H-indol-3-yl]ethanone | 2.30 mmol, 0.73 g | ClCC(=O)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C18H22ClNO2
reactant | 2-(tert-butylcarbonyloxy)thioacetamide | 6.89 mmol, 1.21 g | C(C)(C)(C)C(=O)OCC(=S)N | C7H13NO2S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(cyclohexyl)methyl-7-methoxy-3-{2-[(tertbutylcarbonyloxy)methyl]thiazol-4-yl}-1H-indole | 1.01 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1N=C(SC1)COC(=O)C(C)(C)C | C25H32N2O3S
